US09388189B2
a) 4,6-Dichloro-N-(3-methoxy-4-(oxazol-5-yl)phenyl)pyrimidine-5-carboxamide
4,6-Dichloropyrimidine-5-carbonyl chloride (600 mg, 2.84 mmol, prepared according to E. V. Tarasov et al. Synlett 2000, 5, 625-626) was dissolved in dichloromethane (5 ml) and TEA (395 μl, 2.83 mmol) was added. To this solution, 3-methoxy-4-(oxazol-5-yl)aniline (540 mg, 2.84 mmol, prepared according to S. H. Watterson et al. Bio. Med. Chem. Lett. 12 (2002) 2879-2882) in 5 ml DCM was dropwise added and the mixture was stirred for 30 min. The reaction mixture was then diluted with dichloromethane, washed with 4% sodium bicarbonate solution, dried over magnesium sulphate, filtered and evaporated. The crude (844 mg, 87% purity, 71% yield) was used in the next synthetic step without further purification.

reactant | 4,6-Dichloropyrimidine-5-carbonyl chloride | 2.84 mmol, 600 mg | ClC1=NC=NC(=C1C(=O)Cl)Cl | C5HCl3N2O
reactant | 3-methoxy-4-(oxazol-5-yl)aniline | 2.84 mmol, 540 mg | COC=1C=C(N)C=CC1C1=CN=CO1 | C10H10N2O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 4,6-Dichloro-N-(3-methoxy-4-(oxazol-5-yl)phenyl)pyrimidine-5-carboxamide | 71% yield | ClC1=NC=NC(=C1C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)OC)Cl | C15H10Cl2N4O3
